US08183255B2
N-(2-ethoxy-5-fluoropyrimidin-4-yl)-5-[(4-fluoro-1-methylpiperidin-4-yl)carbonyl]-6,6-dimethyl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazol-3-amine
To a solution of ethyl 3-[(2-ethoxy-5-fluoropyrimidin-4-yl)amino]-6,6-dimethyl-5,6-dihydropyrrolo[3,4-c]pyrazole-1(4H)-carboxylate dihydrochloride (120 mg, 0.27 mmol) in 15 mL THF containing diisopropylethyl amine (0.23 mL, 4 eq) was added a 5 mL THF suspension of 4-fluoro-1-methylpiperidine-4-carbonyl chloride (128 mg, 2.6 eq). After heating for 5 hours at 65° C., the reaction was concentrated to dryness and carried on without further purification. To a solution of ethyl 3-[(2-ethoxy-5-fluoropyrimidin-4-yl)amino]-5-[(4-fluoro-1-methylpiperidin-4-yl)carbonyl]-6,6-dimethyl-5,6-dihydropyrrolo[3,4-c]pyrazole-1(4H)-carboxylate in methanol was added 2 mL of a 10% sodium hydroxide solution in methanol. After removing the solvent in vacuo, the residue was purified as in Example K1 above. See Table 1 below for NMR data.

reactant | ethyl 3-[(2-ethoxy-5-fluoropyrimidin-4-yl)amino]-6,6-dimethyl-5,6-dihydropyrrolo[3,4-c]pyrazole-1(4H)-carboxylate dihydrochloride | 0.27 mmol, 120 mg | Cl.Cl.C(C)OC1=NC=C(C(=N1)NC=1C2=C(N(N1)C(=O)OCC)C(NC2)(C)C)F
reactant | diisopropylethyl amine | 0.23 mL, 4 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-fluoro-1-methylpiperidine-4-carbonyl chloride | 128 mg, 2.6 eq | FC1(CCN(CC1)C)C(=O)Cl | C7H11ClFNO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(2-ethoxy-5-fluoropyrimidin-4-yl)-5-[(4-fluoro-1-methylpiperidin-4-yl)carbonyl]-6,6-dimethyl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazol-3-amine | C(C)OC1=NC=C(C(=N1)NC=1C2=C(NN1)C(N(C2)C(=O)C2(CCN(CC2)C)F)(C)C)F | C20H27F2N7O2
